US04345084
(Z)-5-Tetradecen-2-yn-1-ol
By the procedure of example 13, (Z)-1-chloro-2-undecene (4.0 g, 21 mmol), the Grignard complex of propargyl alcohol (prepared from 35 mmol of propargyl alcohol and 70 mmol of ethylmagnesium bromide in 35 ml of dry THF), and 252 mg of CuCl were allowed to react at 50° C. for 20 h. under argon. Workup of the reaction mixture and purification of the crude product as described before in example 13 gave 2.54 g (58% by weight yield) of (Z)-5-tetradecen-2-yn-1-ol as a colorless oil, bp 102°-127° C./0.25 mmHg (evaporative distillation).

reactant | (Z)-1-chloro-2-undecene | 21 mmol, 4.0 g | ClC\C=C/CCCCCCCC | C11H21Cl
reactant | propargyl alcohol | 35 mmol, 35 ml | C(C#C)O | C3H4O
catalyst | CuCl | 252 mg | Cl[Cu]
product | (Z)-5-Tetradecen-2-yn-1-ol | C(C#CC\C=C/CCCCCCCC)O | C14H24O
